US07872022B2
c) 5-(3,5-Bis-trifluoromethyl-benzyloxymethyl)-4-o-tolyl-1,2,3,6-tetrahydro-pyridine hydrochloride
A mixture of 1-benzyl-5-(3,5-bis-trifluoromethyl-benzyloxymethyl)-4-o-tolyl-1,2,3,6-tetrahydro-pyridine (76 mg, 0.15 mmol), potassium carbonate (20 mg, 0.15 mmol) and 1-chloroethyl chloroformate (23 mg, 0.16 mmol) in 3 ml of 1,2-dichloroethane was heated at 50° C. for 3 h. The mixture was filtered and concentrated in vacuo. The residue was dissolved in 2 ml of methanol and heated at reflux over night. Evaporation of the solvent in vacuo was followed by flash column chromatography to give the free base of the title compound. Dissolution in a 2 M solution of hydrochloric acid in diethyl ether and concentration in vacuo gave 57 mg (84%) of the title compound as a white solid.

reactant | 1-benzyl-5-(3,5-bis-trifluoromethyl-benzyloxymethyl)-4-o-tolyl-1,2,3,6-tetrahydro-pyridine | 0.15 mmol, 76 mg | C(C1=CC=CC=C1)N1CCC(=C(C1)COCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=C(C=CC=C1)C | C29H27F6NO
reactant | potassium carbonate | 0.15 mmol, 20 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloroethyl chloroformate | 0.16 mmol, 23 mg | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
product | 5-(3,5-Bis-trifluoromethyl-benzyloxymethyl)-4-o-tolyl-1,2,3,6-tetrahydro-pyridine hydrochloride | Cl.FC(C=1C=C(COCC2=C(CCNC2)C2=C(C=CC=C2)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C22H21F6NO.ClH/c1-14-4-2-3-5-19(14)20-6-7-29-11-16(20)13-30-12-15-8-17(21(23,24)25)10-18(9-15)22(26,27)28;/h2-5,8-10,29H,6-7,11-13H2,1H3;1H
